US08193164B2
Intermediate VF 3-{(1S,2R,3S,4R)-2,3-Dihydroxy-4-[6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-2-(4-nitro-imidazol-1-yl)-purin-9-yl]-cyclopentyl}-imidazolidine-2,4-dione
3-{(1S,2R,3S,4R)-4-[2-Chloro-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-imidazolidine-2,4-dione (Intermediate VB) and 4-nitro-imidazole, as described for N-{(1S,2R,3S,4R)-4-[6-(2,2-diphenyl-ethylamino)-2-(4-nitro-pyrazol-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate QD).

reactant | 3-{(1S,2R,3S,4R)-4-[2-Chloro-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-imidazolidine-2,4-dione | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1C(NCC1=O)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO | C22H24ClN7O5
reactant | 4-nitro-imidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | N-{(1S,2R,3S,4R)-4-[6-(2,2-diphenyl-ethylamino)-2-(4-nitro-pyrazol-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1N=CC(=C1)[N+](=O)[O-])[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)C1=CC=CC=C1 | C29H29N9O6
product | 3-{(1S,2R,3S,4R)-2,3-Dihydroxy-4-[6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-2-(4-nitro-imidazol-1-yl)-purin-9-yl]-cyclopentyl}-imidazolidine-2,4-dione | O[C@@H]1[C@H](C[C@H]([C@@H]1O)N1C2=NC(=NC(=C2N=C1)N[C@@H](CC1=CC=CC=C1)CO)N1C=NC(=C1)[N+](=O)[O-])N1C(NCC1=O)=O | C25H26N10O7
